US04229448
3 g of a potassium salt of 5-hydroxy-2-methylpyridine, 3.83 g of m-bromochlorobenzene and 200 mg of a copper powder were suspended in 8 ml of dimethylformamide, followed by allowing the mixture to react in a nitrogen gas stream at 130° C. for 13 hours while stirring. The reaction mixture was diluted with 40 ml of ethanol and filtered. The filtrate was immediately concentrated, and 80 ml of chloroform was added to the residue. The mixture was washed with a 0.01 N aqueous sodium hydroxide solution. The chloroform layer was washed with water, dried with anhydrous sodium sulfate and dried to solidify to obtain 2.96 g of oily 5-(m-chlorophenoxy)-2-methylpyridine.

reactant | potassium | 3 g | [K] | K
reactant | 5-hydroxy-2-methylpyridine | OC=1C=CC(=NC1)C | C6H7NO
reactant | m-bromochlorobenzene | 3.83 g | BrC=1C=C(C=CC1)Cl | C6H4BrCl
solvent | dimethylformamide | 8 ml | CN(C=O)C | C3H7NO
solvent | ethanol | 40 ml | C(C)O | C2H6O
catalyst | copper | 200 mg | [Cu] | Cu
product | 5-(m-chlorophenoxy)-2-methylpyridine | 2.96 g | ClC=1C=C(OC=2C=CC(=NC2)C)C=CC1 | C12H10ClNO
